US09387200B2
{[7-Acetyl-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
To the solution of {[3-(4-chloro-phenyl)-7-ethynyl-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid (0.28 mmol) in actone/water=4:1 (2.8 mL) was added conc. H2SO4 (36.2 mg, 0.37 mmol) and HgSO4 (84.3 mg, 0.28 mmol). The reaction mixture was refluxed for 2 h. After cooling to r.t. the mixture was concentrated in vacuo. The residue was dissolved in DMSO (2.5 mL) and purified by flash column chromatography on C18 (40 g), eluting with 30-80% CH3CN/H2O in 0.1% HCOOH to give the title compound (26 mg) as a brown solid: MS (m/z) 406.0 (M+1).

reactant | {[3-(4-chloro-phenyl)-7-ethynyl-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | 0.28 mmol | ClC1=CC=C(C=C1)C1=NSC2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C#C | C17H10ClN3O4S
reactant | H2SO4 | 0.37 mmol, 36.2 mg | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | {[7-Acetyl-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | 26 mg | C(C)(=O)C=1N=C(C(=C2C1SN=C2C2=CC=C(C=C2)Cl)O)C(=O)NCC(=O)O | C17H12ClN3O5S
